US07772238B2
To a solution of 6-hydroxymethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester (2.651 g, 11.22 mmol) in 110 mL of CH2Cl2 was added MnO2 (13.50 g). The mixture was allowed to stir at rt for 30 min and then filtered through a pad of Celite. The filtrate was concentrated and dried to give 6-formyl-benzo[b]thiophene-2-carboxylic acid ethyl ester as a pale solid. 1H NMR (CDCl3, 200 MHz) δ 10.09 (s, 1H), 8.34 (s, 1H), 8.07 (s, 1H), 7.97 (d, J=8.0 Hz, 2H), 7.88 (dd, J=8.4, 1.4 Hz, 1H), 4.40 (q, J=7.0 Hz, 2H), 1.41 (t, J=7.0 Hz, 3H). MS (EI): cal'd 235.0 (M+), exp 235.1 (M+).

reactant | 6-hydroxymethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester | 11.22 mmol, 2.651 g | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)CO | C12H12O3S
solvent | CH2Cl2 | 110 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 13.50 g | O=[Mn]=O
product | 6-formyl-benzo[b]thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)C=O | C12H10O3S
